US08017630B2
2-[4-Dimethylamino-4-(4-fluorophenyl)cyclohexyl]-N-(3-phenylpropyl)acetamide hydrochloride (Examples 42 and 43)
The more polar diastereoisomer of 2-[4-dimethylamino-4-(4-fluorophenyl)cyclohexyl]-N-(3-phenylpropyl)acetamide (295 mg, 0.74 mmol) was dissolved in a mixture of ethyl methyl ketone (10 ml) and ethanol (10 ml), 5 M propanolic hydrochloric acid (0.22 ml, 1.1 mmol) was added and the mixture was stirred at RT for 1.5 h. After addition of ether (50 ml), the mixture was stirred for 2 h and the hydrochloride which had precipitated out was separated off. The product was obtained in a yield of 67% (213 mg) (Example 43).

reactant | 2-[4-dimethylamino-4-(4-fluorophenyl)cyclohexyl]-N-(3-phenylpropyl)acetamide | 0.74 mmol, 295 mg | CN(C1(CCC(CC1)CC(=O)NCCCC1=CC=CC=C1)C1=CC=C(C=C1)F)C | C25H33FN2O
reactant | hydrochloric acid | 1.1 mmol, 5 M, 0.22 ml | Cl | ClH
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | ethyl methyl ketone | 10 ml | CC(=O)CC | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[4-Dimethylamino-4-(4-fluorophenyl)cyclohexyl]-N-(3-phenylpropyl)acetamide hydrochloride | Cl.CN(C1(CCC(CC1)CC(=O)NCCCC1=CC=CC=C1)C1=CC=C(C=C1)F)C | InChI=1S/C25H33FN2O.ClH/c1-28(2)25(22-10-12-23(26)13-11-22)16-14-21(15-17-25)19-24(29)27-18-6-9-20-7-4-3-5-8-20;/h3-5,7-8,10-13,21H,6,9,14-19H2,1-2H3,(H,27,29);1H
